US05908841
To a solution of 5,11-dihydro-11-ethyl-2-hydroxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one (0.176 g) in chloroform (10 mL) cooled on ice was added triethylamine (0.25 mL) followed by triflic anhydride (0.2 mL). After 10 minutes, the mixture was diluted with ethyl acetate, washed with water, dried, filtered, and evaporated. Chromatography of the residue over silica gel (ethyl acetate/hexane) gave 5,11-dihydro-11-ethyl-2-trifluoromethanesulfonyloxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one (0.165 g).

reactant | 5,11-dihydro-11-ethyl-2-hydroxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one | 0.176 g | C(C)C1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)O | C15H15N3O2
reactant | triethylamine | 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 0.2 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,11-dihydro-11-ethyl-2-trifluoromethanesulfonyloxy-5-methyl-dipyrido[3,2-b:2',3'-e]azepine-6-one | 0.165 g | C(C)C1C2=C(N(C(C3=C1N=CC=C3)=O)C)C=CC(=N2)OS(=O)(=O)C(F)(F)F | C16H14F3N3O4S
